US04990521
A mixture of 3.0 parts of trans-N-(3-methoxy-4-piperidinyl)-3-(trifluoromethyl)benzamide, 2.65 parts of sodium carbonate and 80 parts of 4-methyl-2-pentanone was stirred for 30 minutes at reflux temperature, using a water separator. After cooling 3.96 parts of N-(dihydro-5-methyl-3,3-diphenyl-2(3H)-furanylidene)-N-methylmethanaminium bromide were added and stirring was continued for 5 hours at reflux. After cooling overnight at room temperature, the reaction mixture was washed twice with 50 parts of water, dried, filtered and evaporated in vacuo. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 8 parts of acetonitrile. The product was filtered off and dried, yielding 1.3 parts (22.5%) of trans-3-methoxy-N,N,γ-trimethyl-α,α-diphenyl-4-[[3-(trifluoromethyl)benzoyl]amino]-1-piperidinebutanamide; mp. 197.8° C. (compound 52).

reactant | trans-N-(3-methoxy-4-piperidinyl)-3-(trifluoromethyl)benzamide | CO[C@@H]1CNCC[C@H]1NC(C1=CC(=CC=C1)C(F)(F)F)=O | C14H17F3N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | N-(dihydro-5-methyl-3,3-diphenyl-2(3H)-furanylidene)-N-methylmethanaminium bromide | [Br-].CC1CC(C(O1)=[N+](C)C)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | trans-3-methoxy-N,N,γ-trimethyl-α,α-diphenyl-4-[[3-(trifluoromethyl)benzoyl]amino]-1-piperidinebutanamide | 22.5% | CO[C@@H]1CN(CC[C@H]1NC(C1=CC(=CC=C1)C(F)(F)F)=O)C(CC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C | C33H38F3N3O3
